US06294558B1
3-(4-Bromophenyl)-4-(3-fluoro-4-methylthiophenyl)-5-methylisoxazole. (Step 2)
A mixture of 3-(4-bromophenyl)-4-(3-fluoro-4-methylthiophenyl)-5-methyl-4,5-dihydro-5-isoxazolol (630 mg, 1.59 mmol) and p-toluenesulfonic acid monohydrate (274 mg, 1.59 mmol) in methanol (10 ml) was refluxed for 2 h. The mixture was evaporated, dissolved in ethyl acetate (100 ml), washed with saturated sodium bicarbonate (50 ml×2), and dried over anhydrous sodium sulfate. Removal of solvent gave 583 mg (97%) of the title compound as a pale yellow oil.

reactant | 3-(4-bromophenyl)-4-(3-fluoro-4-methylthiophenyl)-5-methyl-4,5-dihydro-5-isoxazolol | 1.59 mmol, 630 mg | BrC1=CC=C(C=C1)C1=NOC(C1C1=CC(=C(C=C1)SC)F)(O)C | C17H15BrFNO2S
reactant | p-toluenesulfonic acid monohydrate | 1.59 mmol, 274 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 10 ml | CO | CH4O
product | 3-(4-Bromophenyl)-4-(3-fluoro-4-methylthiophenyl)-5-methylisoxazole | 583 mg, 97% | BrC1=CC=C(C=C1)C1=NOC(=C1C1=CC(=C(C=C1)SC)F)C | C17H13BrFNOS
